US07442529B2
Protection of the aldehyde was performed following reported procedures. (Borchardt, R. T.; Huber, J. A.; Houston, M. J. Med. Chem. 1982, 25, 258.; Brasili, L.; Sorbi, C.; Franchini, S.; Manicardi, M.; Angeli, P.; Marucci, G.; Leonarke, A.; Poggesi, E. J. Med. Chem. 2003, 46, 1504) 3-Nitrobenzaldehyde (4.0 g, 26.4 mmol) was dissolved in toluene (200 mL). Following this, ethanediol (3.0 mL, 53 mmol, 2.0 eq) was added to the solution and the resulting mixture was refluxed overnight with a Dean-Stark trap. The reflux mixture was then extracted with saturated NaHCO3 (2×75 mL). The organic layer was dried with Na2SO4 and concentrated under reduced pressure. The residue was then purified by flash column chromatography (30% EtOAc/hexanes) to afford 3-nitrophenyl-1,3-dioxolane as a clear yellow oil that solidified upon standing. (5.09 g, 98%, Rf=0.7 40% EtOAc/hexanes). 1H-NMR (400 MHz, CDCl3, δ): 4.0-4.2 (m, 4H), 5.87 (s, 1H), 7.55 (t, 1H, J=7.93 Hz), 7.79 (d, 1H, J=7.7 Hz), 8.21 (dd, 1H, J1=1.2 Hz, J2=8.2 Hz), 8.34 (s, 1H). 13C-NMR (100 MHz, CDCl3, δ): 148.4, 140.5, 132.8, 129.6, 124.1, 121.8, 102.3, 65.6.

reactant | 3-Nitrobenzaldehyde | 26.4 mmol, 4.0 g | [N+](=O)([O-])C=1C=C(C=O)C=CC1 | C7H5NO3
reactant | ethanediol | 53 mmol, 3.0 mL, 2.0 eq | C(C)(O)O | C2H6O2
solvent | toluene | 200 mL | C1(=CC=CC=C1)C | C7H8
product | 3-nitrophenyl-1,3-dioxolane | [N+](=O)([O-])C=1C=C(C=CC1)C1OCCO1 | C9H9NO4
